US07326788B2
Triphosgene (1.64 g, 5.5 mmol) was added to (1H-pyrrol-2-yl)-acetic acid ethylester (prepared following the general procedure described in; J. Org. Chem., 59(18),5230-5234, 1994) (841.0 mg, 5.5 mmol) in toluene (50 mL). The reslting mixture was heated at 100° C. for 1 hr. The reaction mixture was allowed to cool to RT and morpholine (1 mL) and Et3N (1 mL) was added. The resulting mixture was stirred at RT overnigbht and concentrated. The residue obtained was chromatographed on silica (50-100% EtOAc:Hexane) to obtain [5-(Morpholine-4-carbonyl)-1H-pyrrol-2-yl-acetic acid ethyl ester. Yield 43%. 1H-NMR (CDCl3; 400 MHz) δ 10.46 (brs, 1H), 6.43 and 6.08 (dd, J1=3.6, J2=2.68, 1H each), 4.1 (q, J=7.16, 2H), 3.85 and 3.73 (m, 4H each), 3.67 (s, 2H), 1.25 (t, J=7.16, 3H).

reactant | Triphosgene | 5.5 mmol, 1.64 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (1H-pyrrol-2-yl)-acetic acid ethylester | C(C)OC(CC=1NC=CC1)=O | C8H11NO2
reactant | morpholine | 1 mL | N1CCOCC1 | C4H9NO
reactant | Et3N | 1 mL | CCN(CC)CC | C6H15N
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(Morpholine-4-carbonyl)-1H-pyrrol-2-yl-acetic acid ethyl ester | Yield 43% | C(C)OC(CC=1NC(=CC1)C(=O)N1CCOCC1)=O | C13H18N2O4
